US05262385
First, 3-ethoxycarbonyl-tetrahydro-4H-pyran4-one was synthesized referring the process described in Japan Laid-Open Patent Publication No. 32080/90. Then this ester was fluorinated in the same manner as in Example 4 to prepare 3-ethoxycarbony-3-fluoro-tetrahydro-4H-pyran-4-one which was then reduced in the same manner as in the same example to prepare 3-ethoxycarbonyl-3-fluoro-4-hydroxytetrahydro-4H-pyran.

reactant | 3-ethoxycarbony-3-fluoro-tetrahydro-4H-pyran-4-one | C(C)OC(=O)C1(COCCC1=O)F | C8H11FO4
reactant | 3-ethoxycarbonyl-3-fluoro-4-hydroxytetrahydro-4H-pyran | C(C)OC(=O)C1(COCCC1O)F | C8H13FO4
product | 3-ethoxycarbonyl-tetrahydro-4H-pyran4-one | C(C)OC(=O)C1COCCC1=O | C8H12O4
